US07875645B2
rac-2-[1-(2,5-Difluoro-phenyl)-propyl]-4,5-dihydro-1H-imidazole was prepared from rac-2-(2,5-difluoro-phenyl)-butyronitrile and ethylene diamine in analogy to Example 22: colourless powder; MS (ISP): 225.0 ((M+H)+.).

reactant | rac-2-(2,5-difluoro-phenyl)-butyronitrile | FC1=C(C=C(C=C1)F)C(C#N)CC | C10H9F2N
reactant | ethylene diamine | C(CN)N | C2H8N2
product | rac-2-[1-(2,5-Difluoro-phenyl)-propyl]-4,5-dihydro-1H-imidazole | FC1=C(C=C(C=C1)F)C(CC)C=1NCCN1 | C12H14F2N2
